US06002008
4-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-benzamide
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 163.4 mg (1.2 mmol) of 4-amino-benzamide to give 255.7 mg (73.4%) of the product as a light yellow solid, m.p.>250° C., mass (electrospray, m/e): M+H 348.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 4-amino-benzamide | 1.2 mmol, 163.4 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-benzamide | 255.7 mg, 73.4% | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=CC=C(C(=O)N)C=C1)OC)OC | C19H16N4O3
